US06268072B1
Synthesis of 1,3-di(4-iodophenyl)adamantane (compound 14)
Bis((trifluoroacetoxy)iodo)benzene (26.24 g, 0.061 mol) and 1,3-diphenyl adamantane (16.00 g, 0.055 mol) and were dissolved in 150 mL of anhydrous CH2Cl2. To this solution was added sublimed iodine (14.08 g, 0.055 mol) and the dark purple solution was stirred at room temperature under dry nitrogen for 3 h until the pink color disappeared. Most of the product precipitated out of reaction as white fine crystals. The crystals were collected by filtration and washed with minimum amount of CH2Cl2 to give 24.0 g of pure product. The filtrate was washed with dilute sodium thiosulfate solution (2×80 mL), water (1×80 mL), and dried over MgSO4. Solvent was evaporated and the residue was washed with acetone and filtered to give 2.90 g product (total yield 90%). 1H NMR (CDCl3) δ (ppm): 1.76 (s, 2H), 1.88 (s, 8H), 1.93 (s, 2H), 2.30 (s, 2H), 7.10 (d, J=8.5 Hz, 4H, aromatic), 7.6 (d, J=8.5 Hz, 4H, aromatic); 13C NMR (CDCl3): 29.33, 35.61, 37.14, 41.96, 48.52, 91.04, 127.11, 137.21, 150.05. M.p. 100-102° C.; FD-MS: m/z 540 (M+).

reactant | Bis((trifluoroacetoxy)iodo)benzene | 0.061 mol, 26.24 g | FC(C(=O)O[IH]C1=C(C=CC=C1)[IH]OC(C(F)(F)F)=O)(F)F | C10H6F6I2O4
reactant | 1,3-diphenyl adamantane | 0.055 mol, 16.00 g | C1(=CC=CC=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC=CC=C2 | C22H24
reactant | iodine | 0.055 mol, 14.08 g | II | I2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 1,3-di(4-iodophenyl)adamantane | 24.0 g | IC1=CC=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC=C(C=C2)I | C22H22I2
